US07696213B2
5-Bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methyl-N-(pyrrolidin-1-yl)pyrimidin-4-amine
To a flask was added 1-(5-bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidin-4-yl)hydrazine (100 mg, 0.34 mmol) 1,4-dibromobutane (0.04 ml, 0.37 mmol) hunig's base (0.18 ml, 1.01 mmol) and DMAC (1.0 ml) at R.T. After heating at 60° C. over night, the reaction mixture was cooled to R.T. and diluted with EtOAc (2 ml) the white solid was filtered and the mother liquor was concentrated under reduced pressure. The resulting residue was purified by column chromatography eluted with 30% EtOAc:hex to give the titled compound weighted 76 mg 64%

reactant | 1-(5-bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidin-4-yl)hydrazine | 0.34 mmol, 0.04 ml, 100 mg | BrC=1C(=NC(=NC1C)N1C(=CC=C1C)C)NN | C11H14BrN5
reactant | DMAC | 1.0 ml | CC(=O)N(C)C | C4H9NO
reactant | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | 5-Bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methyl-N-(pyrrolidin-1-yl)pyrimidin-4-amine | BrC=1C(=NC(=NC1C)N1C(=CC=C1C)C)NN1CCCC1 | C15H20BrN5
